US06013792
(3RS,10S)-N-benzyloxy-N-formyl-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexylamine.
Alternatively, to (2R)-4-methyl-2-(t-butoxy-carbonylmethyl)pentanoic acid (1g, 4.34 mmol) in dry THF (100 mL) at -78° C. under argon was added NaN(TMS)2 (1.0M in THF, 10.9 mL, 2.5 eq) dropwise and the mixture was stirred for 1 hour. Iodomethane (0.33 mL, 1.2 eq) was added and the resulting mixture was stirred overnight from -78° C. to room temperature. The next day the reaction was quenched with water (100 mL). After extracting with ether (3×100 mL), the aqueous layer was combined with ethyl acetate and with stirring was added 4N HCl to pH=2. Sodium chloride was also added to saturation and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated to give (2R)-4-methyl-2-((1-methyl-1-t-butoxy-carbonyl)methyl)pentanoic acid as a dark brown oil (1 g). To this crude reaction product (500 mg) and (10S)-10-amino-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraene (399 mg, 0.7 eq) in dry DMF at 0° C. under argon was added HOBt-H2O (1.1 eq, 234 mg), followed by EDCI (663 mg, 2.5 eq). The resulting mixture was stirred overnight from 0° C. to room temperature. Most of the DMF was removed by pump distillation at 65° C. Then, the residue was partitioned between CH2Cl2 (150 mL). After washing with 0.5N HCl (2×75 mL), saturated NaHCO3 (2×75 mL) and brine (1×75 mL), the organic layer was dried over Na2SO4, filtered and evaporated to dryness. The crude material was purified by flash column chromatography on silica eluting with 30% ethyl acetate in petroleum ether to yield a mixture of three compounds, the two individual stereoisomers of (3R,10S)-2-methyl-5-methyl-3-(9-oxo-1,8-diaza-tricyclo-[10.6.1.013,18 ]nonadeca-12(19),13(18), 14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester and (3R,10S)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo-[10.6.1.013,18 ]nonadeca-12(19), 13(18), 14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester. Further purification provided separation of the three compounds; (3R,10S)-5-methyl-3-(9-oxo-1,8-diazatricyclo-[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester (13 mg) as a white solid; 1:1 mixture of the stereoisomers (5 mg) as a white solid; and the less polar stereoisomer of (3R,10S)-2-methyl-5-methyl-3-(9-oxo-1,8-diaza-tricyclo-[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl) hexanoic acid t-butyl ester (15 mg); 300 MHz 1H NMR in CDCL3 (less polar diastereomer): δ (-0.2)-(-0.05) (m, 1H); 0.5-0.7 (m, 1H); 0.9 (dd, J=4 Hz, J=6.7 Hz, 6H); 1.15 (d, J=8.4 Hz, 3H); 1.18-1.4 (m, 3H); 1.41 (s, 9H); 1.45-1.73 (m, 4H); 1.75-1.8 (m, 2H); 2.5-2.7 (m, 3H); 2.89 (dd, J=10.9 Hz J=15 Hz, 1H); 3.34-3.5 (m, 2H); 3.95-4.1 (m, 1H); 4.25-4.4 (m, 1H); 4.72-4.82 (m, 1H); 5.22-5.3 (m, 1H); 6.52 (d, J=7.5 Hz, 1H); 6.91 (s, 1H); 7.13 (dd, J=6.7 Hz, J=8.4 Hz, 1H); 7.22 (dd, J=5 Hz, J=7.1 Hz, 1H); 7.34 (d, J=8.4 Hz, 1H); 7.84 (d, J=8.4 Hz, 1H).

reactant | 9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraene | 399 mg, 0.7 eq | O=C1NCCCCCCN2C=3C=CC=CC3C(CC1)=C2 | C17H22N2O
reactant | HOBt H2O | 234 mg, 1.1 eq | C=1C=CC2=C(C1)N=NN2O.O
reactant | EDCI | 663 mg, 2.5 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | (3R,10S)-2-methyl-5-methyl-3-(9-oxo-1,8-diaza-tricyclo-[10.6.1.013,18 ]nonadeca-12(19),13(18), 14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester | C(C)(C)(C)OC(C([C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)C)=O | C30H45N3O4
reactant | (3R,10S)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo-[10.6.1.013,18 ]nonadeca-12(19), 13(18), 14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester | C(C)(C)(C)OC(C[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)=O | C29H43N3O4
solvent | DMF | CN(C)C=O | C3H7NO
product | (3RS,10S)-N-benzyloxy-N-formyl-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexylamine | C(C1=CC=CC=C1)ON(C=O)CCC(CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O | C33H44N4O4
